US06492368B1
By reaction of 4-[4-(6-chloro-2-naphthylsulphonyl)piperazine-1-carbonyl]-3-methylbenzamidine with methyl chloroformate in dichloromethane, the compound methyl(imino-{4-[4- (6-chloro-2-naphthylsulphonyl)piperazine-1-carbonyl]phenyl}methyl)carbamate is obtained after customary work-up

reactant | 4-[4-(6-chloro-2-naphthylsulphonyl)piperazine-1-carbonyl]-3-methylbenzamidine | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=C(C=C(C(=N)N)C=C1)C | C23H23ClN4O3S
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl(imino-{4-[4- (6-chloro-2-naphthylsulphonyl)piperazine-1-carbonyl]phenyl}methyl)carbamate | COC(NC(C1=CC=C(C=C1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=N)=O | C24H23ClN4O5S
